US04672066
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid was allowed to react with 4-pyridine ethanamine according to procedure A and the product was purified by chromatography on silica gel to give 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[2-(4-pyridinyl)ethyl]hexanamide, the title compound, mp 80°-83° (from methylene chloride-ether) in 58% yield.

reactant | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | 4-pyridine ethanamine | N1=CC=C(C=C1)CCN | C7H10N2
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[2-(4-pyridinyl)ethyl]hexanamide | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)NCCC2=CC=NC=C2)C=C1)CCC)O | C24H32N2O4
